US05350748
Methyl 5-bromovalerate (144 μL, 1.00 mmol) is added to a room temperature solution of 3-mercapto-5-methoxybenzo[b]thiophene-2-carboxamide (200 mg, 0.84 mmol) in 8 mL of THF followed by NaHCO3 (351 mg, 4.18 mmol) and the reaction mixture is stirred at room temperature overnight. Additional methyl 5-bromovalerate (100 μL) is added and the reaction mixture is stirred at room temperature for 3 days. The reaction mixture is diluted with ethyl acetate and washed with 1N HCl, water, saturated NaHCO3, and brine. The organic layer is dried over MgSO4. Filtration followed by concentration in vacuo and recrystallization from ethyl acetate:hexane gives methyl 3-[[2-(aminocarbonyl)-5-methoxybenzo[b]thien-3-yl]thio]pentanoate in 30% yield; mp=134.5°-135.5° C.

reactant | Methyl 5-bromovalerate | 1.00 mmol, 144 μL | BrCCCCC(=O)OC | C6H11BrO2
reactant | 3-mercapto-5-methoxybenzo[b]thiophene-2-carboxamide | 0.84 mmol, 200 mg | SC=1C2=C(SC1C(=O)N)C=CC(=C2)OC | C10H9NO2S2
reactant | NaHCO3 | 4.18 mmol, 351 mg | C(=O)(O)[O-].[Na+]
reactant | methyl 5-bromovalerate | 100 μL | BrCCCCC(=O)OC | C6H11BrO2
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-[[2-(aminocarbonyl)-5-methoxybenzo[b]thien-3-yl]thio]pentanoate | 30% yield | NC(=O)C1=C(C2=C(S1)C=CC(=C2)OC)SC(CC(=O)OC)CC | C16H19NO4S2
